US06117882
Step 2: Preparation of N-(Tropan-4-yl)-1-Isopropylindazole-3-Carboxamide
To a solution of N-(tropan-4-yl)-1H-indazole-3-carboxamide (2.98 g, 10 mmol) in 75 mL of dimethylformamide under a nitrogen atmosphere was added, in portions, sodium hydride (60% dispersion in mineral oil, 420 mg, 10 mmol). The resulting solution was allowed to stir for about 1 hour at room temperature before adding 2-iodopropane (1.2 mL, 12 mmol). This resulting solution was allowed to stir at room temperature for about 18 hours. The dimethylformamide was evaporated under reduced pressure and the residue was dissolved in about 100 mL of 1N hydrochloric acid. The acidic solution was washed with ethyl acetate and then cooled before making it basic with saturated aqueous sodium carbonate. The basic mixture was extracted 3 times with methylene chloride. The extracts were washed with brine, dried over sodium sulfate, filtered, then evaporated under reduced pressure to give a viscous oil. The oil was purified by preparative HPLC (gradient methylene chloride:methanol 0-25%, 1% ammonium hydroxide) to give 2.52 g of an oil. Yield: 77%. MS(FD) M+ 326.

reactant | N-(tropan-4-yl)-1H-indazole-3-carboxamide | 10 mmol, 2.98 g | [C@H]12CCC([C@H](CC1)N2C)NC(=O)C2=NNC1=CC=CC=C21 | C16H20N4O
reactant | sodium hydride | 10 mmol, 420 mg | [H-].[Na+]
reactant | 2-iodopropane | 12 mmol, 1.2 mL | IC(C)C | C3H7I
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | N-(Tropan-4-yl)-1-Isopropylindazole-3-Carboxamide | 2.52 g, Yield: 77% | [C@H]12CCC([C@H](CC1)N2C)NC(=O)C2=NN(C1=CC=CC=C21)C(C)C | C19H26N4O
